US07951810B2
Step a: (2R,3R,4S,5R)-2-(6-Chloro-9H-purin-9-yl)-5-[(trityloxy)methyl]tetrahydrofuran-3,4-diol
To a solution of 6-chloro-9-β-D-ribofuranosylpurine (5.00 g, 17.4 mmol) and triphenylmethyl chloride (9.72 g, 34.8 mmol) in DMF (60 mL) was added DIPEA (2.7 mL, 19.1 mmol) dropwise. The reaction was heated to 40° C. overnight, cooled to r.t. and filtered. The yellow filtrate was diluted with chloroform and washed with water, 0.5 N HCl, and water. The organic layer was dried (Na2SO4), filtered and concentrated. The yellow foam was purified by flash chromatography (0 to 4% MeOH/CHCl3) to yield the product as a pale yellow foam (5.99 g, 65%).

reactant | 6-chloro-9-β-D-ribofuranosylpurine | 17.4 mmol, 5.00 g | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C10H11ClN4O4
reactant | triphenylmethyl chloride | 34.8 mmol, 9.72 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | DIPEA | 19.1 mmol, 2.7 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | (2R,3R,4S,5R)-2-(6-Chloro-9H-purin-9-yl)-5-[(trityloxy)methyl]tetrahydrofuran-3,4-diol | 5.99 g, 65% | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H25ClN4O4
